US04943582
trans-6-Aminomethyl-3,4-dihydro-2,2-dimethyl-4-(2-oxopyrrolidinyl)-2H-1-benzopyran-3-ol (E10)
trans-6-Cyano-3,4-dihydro-2,2-dimethyl-4-(2-oxopyrrolidinyl)-2H-1-benzopyran-3-ol (5 g, prepared as described in J. Med. Chem. 29, 2194 (1986)), in ethanol (375 ml) and glacial acetic acid (75 ml) containing concentrated HCl (5 ml) was shaken in the presence of 10% Pd/C (1 g) in an atmosphere of hydrogen for 4 h. The catalyst was filtered off and the solution neutralised with 10% aqueous NaOH solution, and the solution evaporated to dryness. Acid-base extraction, and drying of a dichloromethane solution of the residue, furnished, after recrystallisation from ethyl acetate-pentane, 2.03 g of the required aminomethyl compound of example 4 of mp 191°-193° C. as the hemihydrate.

reactant | trans-6-Cyano-3,4-dihydro-2,2-dimethyl-4-(2-oxopyrrolidinyl)-2H-1-benzopyran-3-ol | 5 g | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)N2C(CCC2)=O)C1 | C16H18N2O3
reactant | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
reactant | HCl | 5 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 375 ml | C(C)O | C2H6O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | trans-6-Aminomethyl-3,4-dihydro-2,2-dimethyl-4-(2-oxopyrrolidinyl)-2H-1-benzopyran-3-ol | NCC=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)N2C(CCC2)=O)C1 | C16H22N2O3
